### PR TITLE
[Merged by Bors] - chore: update Mathlib for leanprover/std4#183

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Init/Data/Bool/Basic.lean [hunk 1]
```diff
@@ -17,11 +18,4 @@ apparently `xor` didn't make the cut.
 #align bor or
 #align band and
 #align bnot not
-
-/-- Boolean XOR -/
-@[inline]
-def xor : Bool → Bool → Bool
-  | true, false => true
-  | false, true => true
-  | _, _ => false
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Bool/Basic.lean:26]: Can you update the docstring in this file too?

File: Mathlib/Data/Bool/Basic.lean [hunk 2]
```diff
@@ -261,85 +241,46 @@ theorem not_or_self : ∀ x, (!x || x) = true := by decide
...
-  le_refl := by unfold LE.le; decide
-  le_trans := by unfold LE.le; decide
-  le_antisymm := by unfold LE.le Preorder.toLE; decide
-  le_total := by unfold LE.le Preorder.toLE PartialOrder.toPreorder; decide
-  decidableLE := by unfold LE.le Preorder.toLE PartialOrder.toPreorder; exact inferInstance
-  decidableEq := inferInstance
-  max := or
-  max_def := λ a b => by cases a <;> cases b <;> decide
-  min := and
-  min_def := λ a b => by cases a <;> cases b <;> decide
```
Comment (eric-wieser) [inline Mathlib/Data/Bool/Basic.lean:332]: Are these automatic now? My worry is that you end up with the defaults, so I'd prefer to see `min` and `max` filled explicitly.

File: Mathlib/Init/Data/Bool/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Init/Data/Bool/Basic.lean:26]: Done

File: Mathlib/Data/Bool/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Mathlib/Data/Bool/Basic.lean:332]: `min` and `max` are set in Std4.

File: Mathlib/Init/Data/Bool/Lemmas.lean [hunk 3]
```diff
@@ -47,8 +47,7 @@ namespace Bool
 theorem cond_self.{u} {α : Type u} (b : Bool) (a : α) : cond b a a = a := by cases b <;> rfl
 #align cond_a_a Bool.cond_self
 
-@[simp]
-theorem xor_self (b : Bool) : xor b b = false := by cases b <;> simp
+attribute [simp] xor_self
 #align bxor_self Bool.xor_self
 
 @[simp]
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Bool/Lemmas.lean:53]: Std called this `Bool.xor_true` lemma `Bool.xor_true_right`; @fgdorais, is there a reason you choose to rename the mathlib version? Or can we change the name in Std to match?

File: Mathlib/Data/Bool/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Bool/Basic.lean:332]: Is there a reason you decided to change the defeq in Std? The lemmas in #7984 aren't true by rfl any more.

File: Mathlib/Init/Data/Bool/Lemmas.lean (hunk 3 above)
Comment (fgdorais) [reply Mathlib/Init/Data/Bool/Lemmas.lean]: This is not a rename, Std should have both as aliases. It's not there because there was a debate at some point whether `xor` should have an infix notation and I wasn't sure what the implications of that would be. (Mario clarified elsewhere but I didn't remember to fix it here.) I will add that to the follow-up PR.

**Comment by digama0** [comment]
Repeating a comment on leanprover/std4#183: I think the mathlib breakage here should probably be fixed on the std side, but because I don't have the time to work on this ATM and to keep things moving, I propose we just patch the issues on the mathlib side and fix std later.

**Comment by semorrison** [comment]
@fgdorais has now proposed follow-up changes in [std4#329](https://github.com/leanprover/std4/pull/329).

I think the correct plan is to merge this asap, and then to follow up with merging #8008. With those two in, I can do the `v4.3.0-rc1` release.

After that, we can handle 
* https://github.com/leanprover/std4/pull/329
* #8005 (it's corresponding Mathlib patch)
at a more leisurely pace. :-)

File: Mathlib/Init/Data/Bool/Lemmas.lean (hunk 3 above)
Comment (fgdorais) [reply Mathlib/Init/Data/Bool/Lemmas.lean]: Fixed in std4#329 and #8005

File: Mathlib/Data/Bool/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Mathlib/Data/Bool/Basic.lean:330]: Fixed in std4#329 and #8005

**Comment by fpvandoorn** [comment]
Ok, let's merge this and fixup later.

bors merge

File: Mathlib/Data/Bool/Basic.lean [hunk 4]
```diff
@@ -241,107 +221,66 @@ theorem eq_false_of_not_eq_true' {a : Bool} : !a = true → a = false := by
...
+  le_trans _ _ _ := Bool.le_trans
+  le_antisymm _ _ := Bool.le_antisymm
+  le_total := Bool.le_total
+  decidableLE := inferInstance
+  lt_iff_le_not_le _ _ := Bool.lt_iff_le_not_le
 #align bool.linear_order Bool.linearOrder
 
-@[simp] theorem max_eq_or : max = or := rfl
-
-@[simp] theorem min_eq_and : min = and := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bool/Basic.lean:335]: I don't think these lemmas should have been deleted, the versions in Std have different statements.

It would be great if Lean could tell us "this declaration already exists *with the same statement* (suggesting a deletion)" vs "a declaration with the same name already exists (suggesting a rename)"

Comment (fgdorais) [reply Mathlib/Data/Bool/Basic.lean:335]: I made them match in std4#329. I don't think this was an intended divergence.
